US07989438B2
Step 4: methyl (7S)-7-[(1-benzylpyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl (7S)-14-cyclohexyl-7-hydroxy-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (prepared as described in International patent application WO2006/046030) in toluene (0.17 M) was treated with 30% NaOH (aq) (10 eq) and tetrabutylammonium bromide (0.25 eq). The solution was stirred at RT for 30 min, then 1-benzyl-2-(chloromethyl)pyrrolidinium chloride (2.5 eq) was added to the solution and the resulting mixture was stirred at 60° C. over night. Toluene was eliminated in vacuo; the residue was taken up in EtOAc and washed with 1 N HCl (aq), brine, before being dried (Na2SO4), filtered and concentrated in vacuo. The crude material was purified by FC (PE/EtOAc 50:50+1% NEt3) to afford the product (80%). (ES+) m/z 579 (M+H)+

reactant | Methyl (7S)-14-cyclohexyl-7-hydroxy-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)O)C(=O)OC | C25H27NO4
reactant | NaOH | 10 eq | [OH-].[Na+]
reactant | 1-benzyl-2-(chloromethyl)pyrrolidinium chloride | 2.5 eq | [Cl-].C(C1=CC=CC=C1)[NH+]1C(CCC1)CCl
solvent | toluene | 0.17 M | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.25 eq | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl (7S)-7-[(1-benzylpyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 80% | C(C1=CC=CC=C1)N1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C37H42N2O4
